* IHP Open PDK
* simple inverter

* Path to the PDK
*.include "D:\Spice_general\skywater-pdk\libraries\sky130_fd_pr\latest\models\corners/tt.spice"
.lib "D:\Spice_general\IHP-Open-PDK\ihp-sg13g2\libs.tech\ngspice\models\cornerMOSlv.lib" mos_tt
*.include lib_out1.lib

.param vdd = 1.2
.param deltat=11n deltat2=27n

* the voltage sources: 
Vdd vd gnd DC 'vdd'
V1 in gnd pulse(0 'vdd' 0p 200p 100p 5n 10n)

* Eponential current source
Iset1 out1 0 EXP(0 250u 'deltat' 10p 'deltat' 500p)
Iset2 out1 0 EXP(0 250u 'deltat2' 10p 'deltat2' 500p)
*Cset out 0 10f

Xnot1 in vdd vss out1 not1
Xnot2 out1 vdd vss out not1

Vmeasvss vss 0 0
Vmeasvdd vd vdd 0

.subckt not1 a vdd vss z
xm01   z a     vdd     vdd sg13_lv_pmos  l=0.15u  w=0.99u  as=0.26235p  ad=0.26235p  ps=2.51u   pd=2.51u
xm02   z a     vss     vss sg13_lv_nmos  l=0.15u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
c3  a     vss   0.384f
c2  z     vss   0.576f
.ends

* simulation command: 
.tran 100ps 50ns ; 0 10p

.options method=gear

.control
run
rusage
*set nolegend
set xbrushwidth=3
plot i(Vmeasvss) i(Vmeasvdd)
plot in out1+2 out+4
.endc

.end
